Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
sildenafil
 
Attending: ___.
 
Chief Complaint:
Spontaneous left pneumothorax
 
Major Surgical or Invasive Procedure:
Left chest tube placement

 
History of Present Illness:
___ with h/o COPD and afib on coumadin presents with
recurrent spontaneous L pneumothorax. While at dinner, he had
sudden onset shortness of breath. Denies chest pain or prior
cough. No difference in his daily regimen that day. He has a
history of two prior L pneumothoraces, one in ___ and one in
___ that was treated with L pleurodesis (he is unsure if
chemical, mechanical, or both). Since placement of the chest
tube, he is much more comfortable and satting well on nasal
cannula. 
 
Past Medical History:
PMHx: asthma, afib, PTX ___ and ___, COPD

PSHx: Left pleurodesis ___
 
Social History:
___
Family History:
Sister with lung disease, otherwise
non-contributory
 
Physical Exam:
Vitals: 98.1, 81, 164/84, 20, 97% 10L
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: bilateral crackles/wheezing; moving air well
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 12:00AM   ___ PTT-35.3 ___
___ 11:37PM   ___ PO2-36* PCO2-59* PH-7.37 TOTAL 
CO2-35* BASE XS-6
___ 11:37PM   O2 SAT-65
___ 06:34AM BLOOD WBC-8.6 RBC-4.16* Hgb-13.2* Hct-40.2 
MCV-97 MCH-31.7 MCHC-32.8 RDW-13.1 RDWSD-46.6* Plt ___

CXR ___ 
Chest tube has been removed.  Cardiac, mediastinal and hilar 
contours appear
stable.  Again noted is severe emphysema.  Streaky opacity in 
the right upper
lung is most consistent with minor atelectasis.  There are very 
similar small
bilateral pleural effusions.  On the left, there is a trace 
pneumothorax. 
Pleural line resides only 6 mm from the left lung apex, not 
significantly
changed.
 
Brief Hospital Course:
Mr. ___ presented to the emergency department with shortness 
of breath. Chest X ray revealed a left sided pneumothorax and a 
chest tube was placed. He was admitted to the Thoracic Surgery 
service for management of his chest tube and possible 
pleurodesis given his history of spontaneous pneumothoraces. 

On the floor, Mr. ___ chest tube was transitioned from 
suction to waterseal, and imaging revealed no residual 
pneumothorax. Interventional pulmonology was consulted for 
possible endobronchial valve placement, but given the absence of 
an air leak there was no intervention indicated. Given the 
patient's previous surgical history of left sided pleurodesis, 
it was felt that repeat pleurodesis would be unlikely to benefit 
the patient.

On HOD 2, his chest tube was clamped and CXR revealed no 
residual pneumothorax. The chest tube was removed and repeat 
imaging was stable. The decision was made to discharge the 
patient. At the time of discharge, the patient was ambulating 
independently, had resumed his home medications, and was 
tolerating a regular diet. Appropriate follow up was scheduled 
and the patient was advised to follow up with his prior thoracic 
surgeon as well.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem 240 mg PO ONCE 
2. Warfarin 5 mg PO DAILY 
3. Levothyroxine Sodium 112 mcg PO DAILY 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
7. Azithromycin 250 mg PO 3X/WEEK (___) 
8. Ascorbic Acid ___ mg PO DAILY 
9. Furosemide 40 mg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 
11. Cyanocobalamin 1000 mcg IM/SC EVERY 4  WEEKS (MO) 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Azithromycin 250 mg PO 3X/WEEK (___)  
3.  Cyanocobalamin 1000 mcg IM/SC EVERY 4  WEEKS (MO)  
4.  Diltiazem 240 mg PO ONCE  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Furosemide 40 mg PO DAILY  
7.  Levothyroxine Sodium 112 mcg PO DAILY  
8.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
9.  Tiotropium Bromide 1 CAP IH DAILY  
10.  Vitamin D 400 UNIT PO DAILY  
11.  Warfarin 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Spontaneous pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to a pneumothorax. A chest 
tube was placed to drain the pneumothorax. The pneumothorax 
resolved and the chest tube was removed.

You may resume your regular activities as you tolerate them. 

You may resume your normal diet.

You may resume your home medications.
 
Followup Instructions:
___